US05608056
To a solution of allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(5-methoxymethylimidazol-1-yl)ethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (1.79 g) in acetone (9.0 ml) was added methyl iodide (1.9 ml) at room temperature and the solution was allowed to stand for 3.5 hours. The solvent was evaporated to give allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(5-methoxymethyl-3-methyl-1-imidazolio)ethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide (2.24 g) as a yellow solid. This compound was immediately used as the starting compound for the next step.

reactant | allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(5-methoxymethylimidazol-1-yl)ethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 1.79 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CCN1C=NC=C1COC | C28H38N4O7S
reactant | methyl iodide | 1.9 ml | CI | CH3I
solvent | acetone | 9.0 ml | CC(=O)C | C3H6O
product | allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(5-methoxymethyl-3-methyl-1-imidazolio)ethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide | 2.24 g | [I-].C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CC[N+]1=CN(C=C1COC)C | InChI=1S/C29H41N4O7S.HI/c1-7-11-39-28(36)25-26(18(3)24-23(19(4)34)27(35)33(24)25)41-22-13-20(32(15-22)29(37)40-12-8-2)9-10-31-17-30(5)14-21(31)16-38-6;/h7-8,14,17-20,22-24,34H,1-2,9-13,15-16H2,3-6H3;1H/q+1;/p-1/t18-,19-,20-,22+,23-,24-;/m1./s1
